Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
metformin / morphine
 
Attending: ___.
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___  is a ___ year-old right-handed female with PMH
of bilateral TNBC s/p double mastectomy, radiation, chemo, Afib
on Apixaban and ___ placement, CAD s/p stent x5, AS, DM II, HLD,
HTN who presents with four months of progressive proximal UE and
___ muscle weakness, pain, and fatigue.

Ms ___ recounts her symptoms started four months ago with
bilateral upper and lower extremity weakness that started at the
same time. She has trouble getting up from a chair, walking up
the stairs, lifting her arms up over her head while combing her
hair, and opening a jar. She also describes muscle cramps in her
thighs and calves bilaterally that are very painful. She has
tried magnesium which has not helped. Two months ago, she had a
fall and was unable to get up for about an hour. This incident
was caught on tape and she reports she fell because she didn't
pick up her foot when walking which caused the fall.

After a short walk, she feels fatigued, "wiped out," and 
slightly
out of breath which all go away with rest. In ___, this was
thought to be from a cardiac source. At that time, she was found
to have 95% occlusion of one of her coronaries and underwent
stent placement. However, this did not improve her symptoms. She
also had echo and stress test and reports AS was stable per
patient's report. She describes this feels different from when
she did have shortness of breath related to her heart in the
past. She also denies chest pain with exertion. She has also had
trouble swallowing food and food getting stuck in her esophagus 
a
month ago. This was found to be due to gastritis on endoscopy 
per
patient report. She has not had problems with swallowing since
then but she does report poor PO intake for the last few weeks
due to feeling sick after eating. Ms ___ feels that her
symptoms have been getting worse requiring her to use a cane for
the last 2 months.

She endorses pain as well in her hips and shoulder. She also has
chronic neck and back pain but neck pain has been progressively
getting worse specifically on the right side. She has starting
wrapping her feet up in a soft blanket at night due to 
discomfort
with sheets over them. She also endorses numbness in her right
hand that feels "like wearing a glove". Denies any radicular
symptoms. She denies any dizziness, except when she gets the
"fast heart rate". This has happened twice in the last few
months. 

On neuro ROS, pertinent positive in HPI, the pt denies headache,
loss of vision, blurred vision, diplopia, dysarthria,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech. No bowel or
bladder incontinence or retention.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  No recent change in bowel or bladder habits.  No dysuria. 

Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Aortic Stenosis 
Afib 
CAD with stent x5
Right breast cancer in ___, again ___
Left breast cancer s/p radiation and chemo. Last chemo ___ years
ago
DM II 
OA
HLD
HTN
Meningioma  

 
Social History:
___
Family History:
Mother: ___ cancer. Four aunts on father's side with breast,
lung, stomach cancer. No history of autoimmune disease.          


 
Physical Exam:
on admission:

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx, no heliotrope rash 
Neck: trapezius on right is quite tight, painful to palpation in
trap and cervical paraspinal muscles 
Pulmonary: CTAB, with any activity or prolonged speaking
breathing becomes quite labored 
Cardiac: systolic murmur heart best at RUSB, warm and well
perfused
Abdomen: soft, NT/ND.
Extremities: No cyanosis, right sided upper extremity lymphedema
from prior mastectomy, pain to palpation of muscles 
Skin: no rashes or lesions noted. 

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Language 
is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors. Speech was not dysarthric. Able
to follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3mm and brisk. Visual field intact in all four
quadrants bilaterally. 

III, IV, VI: EOMI full, develops horizontal diplopia with
prolonged lateral gaze (left and right), With prolonged left 
gaze
inner image goes away with covering either eye,  With prolonged
right gaze, outter image goes away with covering either eye, 
fair
amount of difficulty with this task. images move further apart
with prolonged lateral gaze. Has dizziness and eye heaviness 
with
>30 seconds of sustained up gaze but without significant ptosis. 


V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric. strong eye
closure and mouth closure 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and ___ SCM bilaterally. shoulder
sit asymmetrically with left elevated 
XII: Tongue protrudes in midline good side to side movement 

-Motor: Normal bulk, mild increase in tone in bilateral lower
extremities. Right hand pronation with no drift. No adventitious
movements, such as tremor, noted. No asterixis noted.
 Delt Bic Tri WrE FFl  FE   IP   Quad  Ham  TA  ___ 
___
L *4+  5-  5-   5  5-   5-  *5     *4-  *5  *5      5     5    
4-
R *4+  5-  5-   5  5-   5-  *4+    4+   *4+  4      5     5    
4-

*exam limited by pain 

Neck extension: 4+
Neck flexion: 4+

Patient only able to do 15 reps at left deltoid, after this
strength 4-. 
Can only count to 10 in one breath  

-Sensory: Hyperesthesia in left medial calf, right lateral thigh
and right medial calf in patches to light touch. No deficits to
light touch. Decreased sensation of pinprick in the bilateral
lower extremities up to the knee circumferentially that 
increases
in a length dependent pattern. Decreased sensation of pinprick 
in
the bilateral upper extremities up to the elbow 
circumferentially
in a length dependent pattern. Notes pinprick feels duller on 
the
right side than left. no spinal level to pinprick 
Decreased proprioception in bilateral lower extremities only
intact to large movements with multiple mistakes, decreased
proprioception in right upper extremity, intact in left upper
extremity. 

Vibration:
  Toe Ankle Knee Finger
L 5s   4s    5s    >10s
R 2s   7s    5s     5s

-DTRs:
  Bi Tri ___ Pat Ach
L  2  0    2    0   0
R  2  0    0    0   0

Plantar response was flexor bilaterally but limited due to pain.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally. finger tapping was fast and smooth bilaterally. 

-Gait: Did not assess given patient very short of breath and in
pain after examination 

At discharge:
Neurologic:
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Language 
is
fluent. Normal prosody. There were no paraphasic errors. Speech
was not dysarthric . Voice remained the same at the end of the
interview. 

-Cranial Nerves: PERRL 4 to 3mm and brisk. Visual field intact 
in
all four quadrants bilaterally.  EOMI full,  has eye heaviness
with >5 econds of sustained up gaze and has difficulty keeping
her upper eyelid open.  No facial droop, facial musculature
symmetric. strong eye closure and mouth closure. late elevates
symmetrically. /5 strength in trapezii and ___ SCM bilaterally.
shoulder sit asymmetrically with left elevated.Tongue protrudes
in midline good side to side movement 

-Motor: Normal bulk and tone. Right hand pronation with no 
drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.
 Delt Bic Tri WrE FFl  FE   IP   Quad  Ham  TA  ___ 
L 4+  5-  5   5    5   5-   4+    4+   *5-  *5     5     
R 4+  5-  5   5    5   5-   4+    4+   *5-   5     5     

Able to keep her ___ for about 10 sec before tieres
out. Able to provide some resistance.

Neck extension:5
Neck flexion: 4+
  
-Sensory: Decreased Pinprick circumferentially until below the
knees.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  0    2    2   0
R  2  0    ___

Plantar response was flexor bilaterally 
-Coordination: No intention tremor. No dysmetria on FNF 
-Gait: Not tested today
 
Pertinent Results:
___ 09:40AM   CK(CPK)-81
___ 09:40AM   CK-MB-2 cTropnT-<0.01
___ 09:40AM   TOT PROT-7.4
___ 09:40AM   FOLATE->20
___ 09:40AM   %HbA1c-7.2* eAG-160*
___ 09:40AM   ___ TITER-1:80* CRP-13.7*
___ 09:40AM   PEP-NO SPECIFI
___ 09:40AM   WBC-9.8 RBC-4.57 HGB-12.9 HCT-40.5 MCV-89 
MCH-28.2 MCHC-31.9* RDW-14.6 RDWSD-46.6*
___ 09:40AM   PLT COUNT-265
___ 09:20AM URINE  HOURS-RANDOM
___ 09:20AM URINE  HOURS-RANDOM TOT PROT-29
___ 09:20AM URINE  U-PEP-ALBUMIN IS
___ 09:20AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:20AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:46AM   ALT(SGPT)-13 AST(SGOT)-43* ALK PHOS-72 TOT 
BILI-0.4
___ 03:46AM   LIPASE-23
___ 03:46AM   cTropnT-<0.___ year-old right-handed female with PMH of bilateral TNBC s/p 
double mastectomy, radiation, chemo, Afib on Apixaban and ___ 
placement, CAD s/p stent x5, AS, DM II, HLD, HTN who was 
referred to the ED for evaluation of four months of progressive 
weakness and fatiguability with frequent falls, with specific 
concern for a fatiguable neuromuscular process as per her 
outpatient neurologist. Her exam on presentation was clouded by 
generalized fatiguability as she had been kept up between 
ED-to-ED transfers for ~ 2 nights with poor sleep and 
deconditioning. She had poor effort on neurological exam due to 
dyspnea but initial exam was notable for suspected deltoid 
fatiguability and diplopia on upgaze, prompting hospital 
admission for expedited workup. Her exam resolved the next 
morning after a night's sleep but she continued to endorse 
proximal weakness and myalgias as well as stocking-glove 
distribution of paraeasthesias. Her exam was notable for 
generalized weakness with poor effort and without clear 
proximal/distal distribution (perhaps with subtle ___ 
weakness). She had diminished reflexes throughout but had 
myotonic reflexes.. She had no rashes or other dermatologic 
signs. Labs were notable for negative AchR (sent as outpatient) 
as well as normal SPEP/UPEP, TSH, B12. Her CK was normal. 
Aldolase, MMA pending. ___ was positive but this is a 
non-specific test. Her ESR and CRP were moderately elevated. She 
underwent EMG which was normal without signs of myopathic motor 
units or early recruitment to suggest neuromuscular junction 
etiology or generalized myopathic process. Incidental findings 
were notable for mild median neuropathy at left wrist and mild 
ulnar neuropathy at left elbow as well as chronic mild L4 
radiculopathy on the left. Her statin was initially held on 
admission out of concern for a myopathic process but was later 
resumed. 

She did not show signs of heart failure on exam but a routine 
TTE was ordered to facilitate evaluation of Aortic Stenosis in 
outpatient setting. She was evaluated by ___ who recommended 
discharge to home with outpatient services for ongoing 
prevention of deconditioning. She will follow with her PCP, 
___, and ___ neurology as above. 

Transitional Issues:
[ ] f/u MuSK, aldolase, MMA
[ ] f/u TTE results (we will fax to her cardiologist)
[ ] f/u with neurology, PCP, cardiology as above
[ ] continue outpatient ___, OT
[ ] IMDUR held on this admission due to normal blood pressures 
without this medication, please discuss continuing imdur after 
discussion with your PCP 

***Work Up prior to transfer to ___ syndrome antibody panel
- VGCC type P/Q antibody <30
- AChR binding antibody <0.30
- AChR modulating antibody = 7% (<32% is reference range)
- Striated muscle antibody screen negative 
- Titer was not sent because antibody screen was negative "
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Apixaban 5 mg PO BID 
2. CARVedilol 12.5 mg PO BID 
3. Sotalol 80 mg PO BID 
4. Clopidogrel 75 mg PO DAILY 
5. Rosuvastatin Calcium 10 mg PO QPM 
6. Furosemide 80 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Celecoxib 100 mg oral DAILY:PRN 
10. Tresiba FlexTouch U-100 (insulin degludec) 62 units 
subcutaneous DAILY 
11. NovoLOG U-100 Insulin aspart (insulin aspart U-100) 100 
unit/mL subcutaneous TID W/MEALS 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID  
2.  CARVedilol 12.5 mg PO BID  
3.  Clopidogrel 75 mg PO DAILY  
4.  Furosemide 80 mg PO DAILY  
5.  NovoLOG U-100 Insulin aspart (insulin aspart U-100) 100 
unit/mL subcutaneous TID W/MEALS  
6.  Pantoprazole 40 mg PO Q24H  
7.  Rosuvastatin Calcium 10 mg PO QPM  
8.  Sotalol 80 mg PO BID  
9.  Tresiba FlexTouch U-100 (insulin degludec) 62 units 
subcutaneous DAILY  
10. HELD- Celecoxib 100 mg oral DAILY:PRN  This medication was 
held. Do not restart Celecoxib until you discuss with your PCP
11. HELD- Isosorbide Mononitrate (Extended Release) 30 mg PO 
DAILY  This medication was held. Do not restart Isosorbide 
Mononitrate (Extended Release) until you discuss with your PCP 
and cardiologist
12.Outpatient Occupational Therapy
___ with AS, CAD x 5 stents, afib on apixaban presenting with 
generalized weakness, deconditioning
13.Outpatient Physical Therapy
___ with generalized weakness/deconditioning, history of AS, 
afib, CAD

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis
Peripheral polyneuropathy of diabetes
Deconditioning
Congestive heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for evaluation of upper and 
lower extremity weakness, associated pain and fatigue.  Your 
description of the weakness being located mainly in the upper 
arms and thighs was concerning for possible muscular or 
neuromuscular process.  You underwent some blood work prior to 
coming to our emergency room which was reviewed by our team.  
More specific blood tests were ordered to look for muscular or 
neurological cause for your symptoms.  You underwent a test 
called EMG to measure the activity of the nerves and muscles in 
your extremities which was normal.  An the echocardiogram of 
your heart was also done during this hospital stay and the 
results will be faxed to your PCP and cardiologists. 

During your admission, we noted that you had normal blood 
pressures (SBP 100-120) without taking imdur. We held this blood 
pressure medication until you follow-up with your PCP and 
cardiologist, as you may not need it. If your blood pressure is 
low with standing up, this may have made you more tired. 

You were seen by physical and Occupational Therapy who 
recommended continuing therapy in an outpatient setting or at 
home, depending on your preference.

Thank you for allowing us to take part in your care.

Sincerely, 
___ neurology team

 
Followup Instructions:
___